US05457105
Using an analogous procedure to that described in Example 68, 4-chloro-6,7-dimethoxyquinazoline was reacted with 3-aminophenol to give 4-(3'-hydroxyanilino)-6,7-dimethoxyquinazoline in 92% yield, m.p. 256°-257° C. NMR Spectrum: 3.98 (s, 3H), 4.02 (s, 3H), 6.75 (m, 1H), 7.12 (d, 1H), 7.14 (d, 1H), 7.25 (t, 1H), 7.42 (s, 1H), 8.37 (s, 1H), 8.80 (s, 1H), 9.5 (broad hump, 1H), 11.4 (broad s, 1H); Elemental Analysis: Found C, 57.1; H, 4.8; N, 12.1; C16H15N3O3. 1HCl. 0.25H2O requires C, 56.8; H, 4.9; N, 12.4%.

reactant | 4-chloro-6,7-dimethoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
product | 4-(3'-hydroxyanilino)-6,7-dimethoxyquinazoline | 92% yield | OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1 | C16H15N3O3
